US05078907
Into a 250 ml three-necked round bottom flask equipped with a mechanical stirrer and reflux condenser topped with a drying tube containing indicating Drierite® were added 100 ml of toluene and 40.6 grams (0.20) mole of terephthaloyl chloride. To this solution was added dropwise 18.4 grams (0.40 mole) of ethanol. The reaction solution was heated for two hours at 60-65° C. After this heating period IR analysis showed the complete disappearance of the acid chloride stretch at 1775 cm-1. The reaction solution was washed three times with 10% sodium bicarbonate solution and subsequently three times with distilled water. The product solution was dried over magnesium sulfate. After removal of the desiccant the toluene was removed by distillation. The residue crystallized on standing and amounted to 38 grams (86% yield) of diethyl terephthalate.

reactant | Drierite | [O-]S(=O)(=O)[O-].[Ca+2]
reactant | terephthaloyl chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | ethanol | 0.40 mole, 18.4 grams | C(C)O | C2H6O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | diethyl terephthalate | 38 grams, 86% yield | C(C1=CC=C(C(=O)OCC)C=C1)(=O)OCC | C12H14O4
